US07595401B2
9-[2-(3,5-Bistrifluoromethyl-phenyl)-ethyl]-8-(6-bromo-benzo[1,3]dioxol-5-ylsulfanyl)-9H-purin-6-ylamine
The title compound was prepared from 8-(6-bromo-benzo[1,3]dioxol-5-ylsulfanyl)-9H-purin-6-ylamine and 1-(2-bromo-ethyl)-3,5-bis-trifluoromethyl-benzene by a procedure similar to examples 1 and 2. The compound was purified by preparative HPLC. 1H NMR (DMSO-d6) δ 8.13 (s, 1H), 7.79 (s, 1H), 7.66 (s, 2H), 7.23 (s, 1H), 7.01 (s, 1H), 6.09 (s, 2H), 4.59 (t, J=7.4 Hz, 2H), 3.35 (t, J=7.4 Hz, 2H); LC-MS [M+H]+ 607.0

reactant | 8-(6-bromo-benzo[1,3]dioxol-5-ylsulfanyl)-9H-purin-6-ylamine | BrC=1C(=CC2=C(OCO2)C1)SC=1NC2=NC=NC(=C2N1)N | C12H8BrN5O2S
reactant | 1-(2-bromo-ethyl)-3,5-bis-trifluoromethyl-benzene | BrCCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H7BrF6
product | 9-[2-(3,5-Bistrifluoromethyl-phenyl)-ethyl]-8-(6-bromo-benzo[1,3]dioxol-5-ylsulfanyl)-9H-purin-6-ylamine | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN1C2=NC=NC(=C2N=C1SC1=CC2=C(OCO2)C=C1Br)N)(F)F | C22H14BrF6N5O2S
